US07053212B2
Step A: Toluene-4-sulfonic acid 4-({cyclohexanecarbonyl-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amino}-methyl)-phenyl ester
To a solution of toluene-4-sulfonic acid 4-{[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-methyl}-phenyl ester (0.120 g, 0.26 mmol) and triethylamine (0.18 mL, 1.36 mmol) in 2 mL methylene chloride was added cyclohexanecarbonyl chloride (0.138 mL, 1.03 mmol). The reaction mixture was stirred for 3 hr. at room temperature. Saturated aqueous sodium bicarbonate was added and the layers were separated. The aqueous layer was washed with an additional 2 mL of methylene chloride. The combined organic layers were dried (magnesium sulfate), filtered, and concentrated. Flash filter chromatography afforded the title compound of Step A. MS 577.1 (M+1)+

reactant | toluene-4-sulfonic acid 4-{[4-(2-pyrrolidin-1-yl-ethoxy)-phenylamino]-methyl}-phenyl ester | 0.26 mmol, 0.120 g | N1(CCCC1)CCOC1=CC=C(C=C1)NCC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C26H30N2O4S
reactant | triethylamine | 1.36 mmol, 0.18 mL | C(C)N(CC)CC | C6H15N
reactant | cyclohexanecarbonyl chloride | 1.03 mmol, 0.138 mL | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | Toluene-4-sulfonic acid 4-({cyclohexanecarbonyl-[4-(2-pyrrolidin-1-yl-ethoxy)-phenyl]-amino}-methyl)-phenyl ester | C1(CCCCC1)C(=O)N(C1=CC=C(C=C1)OCCN1CCCC1)CC1=CC=C(C=C1)OS(=O)(=O)C1=CC=C(C=C1)C | C33H40N2O5S
